US09340549B2
To a vessel charged with (S)-4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)benzoyl chloride (50 mg, 0.152 mmol) were added DCM (606 μL), 1,5-naphthyridin-4-amine (commercially available from Astatech Inc., Bristol, Pa.) (24 mg, 0.167 mmol), and DIEA (55.6 μL, 0.318 mmol) respectively. The vessel was sealed and shaken overnight at 40° C. The mixture was dried under reduced pressure and purified using a 25 g, 15 m spherical silica column (Interchim) ramping 0-100% EtOAc in heptane from 0-100% to elute product, which was lyophilized from MeOH/H2O to yield (S)-4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)-N-(1,5-naphthyridin-4-yl)benzamide (64 mg, 96%) as an off-white powder. 1H NMR (400 MHz, DMSO-d6) δ=10.63 (s, 1H), 9.01 (dd, J=1.6, 4.2 Hz, 1H), 8.93 (d, J=5.0 Hz, 1H), 8.54 (d, J=5.1 Hz, 1H), 8.46 (dd, J=1.6, 8.5 Hz, 1H), 8.01-7.96 (m, 2H), 7.89 (dd, J=4.3, 8.6 Hz, 1H), 7.76-7.70 (m, 2H), 7.43-7.37 (m, 2H), 7.36-7.22 (m, 3H), 5.57 (s, 1H), 1.67 (s, 3H), 0.94 (s, 3H). m/z (ESI) 439.2 (M+H)+.

reactant | (S)-4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)benzoyl chloride | 0.152 mmol, 50 mg | CC1([C@@H](N(C(O1)=O)C1=CC=C(C(=O)Cl)C=C1)C1=CC=CC=C1)C | C18H16ClNO3
reactant | 1,5-naphthyridin-4-amine | N1=CC=C(C2=NC=CC=C12)N | C8H7N3
reactant | DIEA | 0.318 mmol, 55.6 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 606 μL | C(Cl)Cl | CH2Cl2
product | (S)-4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)-N-(1,5-naphthyridin-4-yl)benzamide | 64 mg, 96% | CC1([C@@H](N(C(O1)=O)C1=CC=C(C(=O)NC2=CC=NC3=CC=CN=C23)C=C1)C1=CC=CC=C1)C | C26H22N4O3
